US04780477
To a solution of 1.37 g of 1-(2-diisopropylaminoethyl)isatin and 0.86 g of 4-phenylsemicarbazide in ml of a mixture of ethanol and water (2:1) was added 3 drops of acetic acid, and the mixture was stirred for 3 hours at 70° C. The yellow precipitates were collected by filtration, and recrystallized from ethanol to obtain 1.24 g of (E)-1-(2-diisopropylaminoethyl)isatin 3-(4-phenylsemicarbazone) having a melting point of 157°-159° C.

reactant | 1-(2-diisopropylaminoethyl)isatin | 1.37 g | C(C)(C)N(CCN1C(=O)C(=O)C2=CC=CC=C12)C(C)C | C16H22N2O2
reactant | 4-phenylsemicarbazide | 0.86 g | C1(=CC=CC=C1)NC(NN)=O | C7H9N3O
reactant | ethanol | C(C)O | C2H6O
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | (E)-1-(2-diisopropylaminoethyl)isatin 3-(4-phenylsemicarbazone) | 1.24 g | C1(=CC=CC=C1)NC(N\N=C/1\C(N(C2=CC=CC=C12)CCN(C(C)C)C(C)C)=O)=O | C23H29N5O2
